US05985909
(f) 1-(t-Butyloxycarbonyl)-3-(methoxycarbonyl)-6-nitroindoline
NaOMe (4.8 mL of a 1.28 M solution in MeOH, 6.1 mmol) was added dropwise to a solution of 1-(t-butyloxycarbonyl)-3,3-di(methoxycarbonyl)-6-nitroindoline (2.11 g, 5.55 mmol) in THF (100 mL) under nitrogen at 20° C., immediately giving an intense purple colour. After 5 min trifluoroacetic acid (0.51 mL, 6.7 mmol) was added in one portion, causing the nitronate colour to disperse. The pale yellow solution was diluted with aq. NaCl, extracted with EtOAc, and the extracts dried (Na2SO4) and evaporated to give crude title compound as a pale yellow oil. This compound showed signs of air oxidation on standing at room temperature, so was not further purified but used directly in the next step. 1H NMR (CDCl3) δ8.67, 8.34 (2 x br s, 1H, H-7), 7.85 (dd, J=8.2, 2.1 Hz, 1H, H-5), 7.49 (d, J=8.2 Hz, 1H, H-4), 4.48 (dd, J=10.5, 5.4 Hz, 1H, NCH2CH), 4.28 (dd, J=10.5, 5.3 Hz, 1H, NCH2CH), 4.22 (t, J=10.6 Hz, 1H, NCH2CH), 3.82 (s, 3H, CO2Me), 1.60 (s, 9H, t-Bu): 13C NMR δ170.5 (CO2Me), 151.6, 149.1 (C-6,8,9, NCO2, two peaks not observed), 125.5, 117.7, 109.9 (C-4,5,7), (OCMe3 peak not observed), 53.1 (OMe), 50.3 (C-2), 44.4 (C-3), 28.3 (C(CH3)3). HRMS calculated for C15H18N2O6 : 322.11649. Found: 322.11627.

reactant | NaOMe | C[O-].[Na+]
reactant | 1-(t-butyloxycarbonyl)-3,3-di(methoxycarbonyl)-6-nitroindoline | 5.55 mmol, 2.11 g | C(C)(C)(C)OC(=O)N1CC(C2=CC=C(C=C12)[N+](=O)[O-])(C(=O)OC)C(=O)OC | C17H20N2O8
reactant | trifluoroacetic acid | 6.7 mmol, 0.51 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | nitronate | [N+]([O-])([O-])=C
solvent | MeOH | CO | CH4O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | NaCl | [Na+].[Cl-]
product | 1-(t-Butyloxycarbonyl)-3-(methoxycarbonyl)-6-nitroindoline | C(C)(C)(C)OC(=O)N1CC(C2=CC=C(C=C12)[N+](=O)[O-])C(=O)OC | C15H18N2O6
